US07423156B2
N-(4-Bromo-2-fluorophenyl)-5-(trifluoromethyl)-1,3-benzoxazol-2-amine
2-Amino-4-(trifluoromethyl)phenol (580 mg, 3.25 mmol) and 4-bromo-2-fluoro-1-isothio-cyanatobenzene (750 mg, 3.25 mmol) were stirred in ethyl alcohol at ambient temperature for 18 h. The flask was charged with 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (EDCI) (405 mg, 2.12 mmol), and the mixture was stirred for 2 h before being heated at reflux overnight. The reaction was allowed to cool to rt and was concentrated under reduced pressure. The residue was dissolved in ethyl acetate and washed with 2 N aqueous hydrochloric acid solution and water, dried (Na2SO4), and concentrated in vacuo. The crude material was suspended in ether, sonicated, and the resulting solid was collected by filtration to provide the title compound (214 mg, 18%). LC-MS m/z 375.1 (MH+), retention time 3.70 minutes.

reactant | 2-Amino-4-(trifluoromethyl)phenol | 3.25 mmol, 580 mg | NC1=C(C=CC(=C1)C(F)(F)F)O | C7H6F3NO
reactant | 4-bromo-2-fluoro-1-isothio-cyanatobenzene | 3.25 mmol, 750 mg | BrC1=CC(=C(C=C1)N=C=S)F | C7H3BrFNS
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 2.12 mmol, 405 mg | Cl.CN(CCCN=C=NCC)C
solvent | ethyl alcohol | C(C)O | C2H6O
product | N-(4-Bromo-2-fluorophenyl)-5-(trifluoromethyl)-1,3-benzoxazol-2-amine | 214 mg, 18% | BrC1=CC(=C(C=C1)NC=1OC2=C(N1)C=C(C=C2)C(F)(F)F)F | C14H7BrF4N2O
